US07253196B2
tert-Butyl 3-(4-oxo-2-(2-(trifluoromethyl)phenylamino)-4,5-dihydrothiazol-5-yl)propanoate
To a mixture of ethyl 5-(3-tert-butoxy-3-oxopropyl)-4-oxo-2-(2-(trifluoromethyl)phenylamino)-4,5-dihydrothiazole-5-carboxylate (88.7 mg, 0.19 mmol), THF (1 mL), MeOH (0.3 mL), and water (0.3 mL) was added LiOH.H2O (Aldrich, 20 mg, 0.47 mmol) at room temperature. After 3 h, 1N HCl (0.7 mL) was added to the reaction mixture at 0° C. The mixture was extracted with EtOAc, and the organic phase was dried over Na2SO4, filtered, and concentrated in vacuo. The crude material was purified by silica gel chromatography. MS: 389 (M+1).

reactant | ethyl 5-(3-tert-butoxy-3-oxopropyl)-4-oxo-2-(2-(trifluoromethyl)phenylamino)-4,5-dihydrothiazole-5-carboxylate | 0.19 mmol, 88.7 mg | C(C)(C)(C)OC(CCC1(C(N=C(S1)NC1=C(C=CC=C1)C(F)(F)F)=O)C(=O)OCC)=O | C20H23F3N2O5S
reactant | THF | 1 mL | C1CCOC1 | C4H8O
reactant | LiOH.H2O | 0.47 mmol, 20 mg | O[Li].O
reactant | HCl | 1N, 0.7 mL | Cl | ClH
solvent | water | 0.3 mL | O | H2O
solvent | MeOH | 0.3 mL | CO | CH4O
product | tert-Butyl 3-(4-oxo-2-(2-(trifluoromethyl)phenylamino)-4,5-dihydrothiazol-5-yl)propanoate | O=C1N=C(SC1CCC(=O)OC(C)(C)C)NC1=C(C=CC=C1)C(F)(F)F | C17H19F3N2O3S
